US08304425B2
A mixture of 3-[1-tert-butoxycarbonyl-4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2-oxo-2,5-dihydro-1H-pyrrol-3-yl]-indole-1-carboxylic acid tert-butyl ester (408 mg, 738 μmol) and 4M HCl in dioxane (15 mL) was shaken at room temperature for 16 h. The solvent was removed and the residue partitioned between EtOAc and 2N NaOH. The organics were concentrated and the residue purified by flash column chromatography (SiO2, DCM/MeOH). The solid obtained was recrystallised from DCM to afford 4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-1,5-dihydro-pyrrol-2-one as a pale yellow solid (159 mg, 61%). M.p.=260-262° C.; 1H NMR (400 MHz, DMSO-d6) δ: 11.22 (s, 1H), 8.16 (s, 1H), 7.44-7.39 (m, 2H), 7.31 (s, 1H), 7.05-6.95 (m, 3H), 6.82-6.74 (m, 3H), 4.51 (s, 2H), 4.00 (t, J=5.6 Hz, 2H), 2.86 (t, J=6.0 Hz, 2H), 2.05 (t, J=5.2 Hz, 2H). LCMS: m/e 354.12 [M+H].

reactant | 3-[1-tert-butoxycarbonyl-4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2-oxo-2,5-dihydro-1H-pyrrol-3-yl]-indole-1-carboxylic acid tert-butyl ester | 738 μmol, 408 mg | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C=1C(N(CC1C1=CN2CCCC3=CC=CC1=C23)C(=O)OC(C)(C)C)=O | C33H35N3O5
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-1,5-dihydro-pyrrol-2-one | 159 mg, 61% | C1(=CN2CCCC3=CC=CC1=C23)C2=C(C(NC2)=O)C2=CNC3=CC=CC=C23 | C23H19N3O
